US07834062B2
Step A: (4-Tert-butyl-2-methoxyphenyl)acetic acid
A mixture of 5.76 g (27.9 mmol) of 1-(4-tert-butyl-2-methoxyphenyl)ethanone (described in patent applications WO 01/02366; WO 99/52857; WO 99/21836; WO 97/48683), 1.1 g (34.3 mmol) sulfur and 15 mL morpholine (0.172 mol) was refluxed overnight under a nitrogen atmosphere. The reaction mixture was cooled and poured into 200 mL water containing 30 g sodium hydroxide and the resulting mixture was again refluxed overnight. The reaction mixture was then cooled to room temperature, diluted with an equal volume of water, and filtered through a pad of Celite filter aid. The filtrate was then cooled with an external ice water bath and acidified. The resulting precipitate was filtered, washed with water and air dried. The residue was then suspended in EtOAc and filtered to remove insoluble material and the filtrate was concentrated in vacuo to afford the title compound.

reactant | 1-(4-tert-butyl-2-methoxyphenyl)ethanone | 27.9 mmol, 5.76 g | C(C)(C)(C)C1=CC(=C(C=C1)C(C)=O)OC | C13H18O2
reactant | sulfur | 34.3 mmol, 1.1 g | [S] | S
reactant | morpholine | 0.172 mol, 15 mL | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | water | 200 mL, 30 g | O | H2O
product | (4-Tert-butyl-2-methoxyphenyl)acetic acid | C(C)(C)(C)C1=CC(=C(C=C1)CC(=O)O)OC | C13H18O3
